US06696437B1
a) Ethyl 2-Pyridin-4-ylbenzimidazole-4-carboxylate
1 g (5.5 mmol) of ethyl 2,3-diaminobenzoate and 0.7 ml (11.3 mmol) of acetic acid were dissolved in 15 ml of ethanol. Then 0.77 g (7.2 mmol) of pyridine-4-carbaldehyde, dissolved in 25 ml of ethanol was added dropwise over the course of 30 minutes. A solution of 1.44 g (7.2 mmol) of copper(II) sulfate in 20 ml of water was then rapidly added dropwise. The mixture was boiled under reflux for 2 hours. The reaction solution was then allowed to cool to 50° C. 2.25 ml of 32% strength hydrochloric acid were then added. A solution of 2.13 g (8.9 mmol) of sodium sulfide hydrate and 25 ml of water was then cautiously added dropwise while hot. The mixture was stirred for 10 minutes. The reaction mixture was then poured into ice-water, and the resulting precipitate was filtered off. The filtrate was made alkaline with aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phase was washed with water, dried and concentrated in vacuo. 1.15 g of the product were obtained.

reactant | ethyl 2,3-diaminobenzoate | 5.5 mmol, 1 g | NC1=C(C(=O)OCC)C=CC=C1N | C9H12N2O2
reactant | acetic acid | 11.3 mmol, 0.7 ml | C(C)(=O)O | C2H4O2
reactant | pyridine-4-carbaldehyde | 7.2 mmol, 0.77 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium sulfide hydrate | 8.9 mmol, 2.13 g | O.[S-2].[Na+].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
catalyst | copper(II) sulfate | 7.2 mmol, 1.44 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 25 ml | O | H2O
product | Ethyl 2-Pyridin-4-ylbenzimidazole-4-carboxylate | 1.15 g | N1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2C(=O)OCC | C15H13N3O2
